US08865682B2
To a 0° C. stirred solution of methyl oxindole-5-carboxylate (421 mg, 2.2 mmol) and 4-bromo-5,5-dimethylfuran-2(5H)-one (382 mg, 2.0 mmol) in THF (10 mL), was added 1M LiHMDS/THF solution (4.4 mL, 4.4 mmol) under nitrogen. The mixture was stirred at 0° C. for 80 min, quenched with 2.5M H2SO4 (3 mL), and poured into 100 mL of water. The precipitates were filtered, washed with water, and dried in vacuo to give methyl (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-2-oxoindoline-5-carboxylate as yellow solid. Yield: 408 mg, 56%.

reactant | methyl oxindole-5-carboxylate | 2.2 mmol, 421 mg | N1C(CC2=CC(=CC=C12)C(=O)OC)=O | C10H9NO3
reactant | 4-bromo-5,5-dimethylfuran-2(5H)-one | 2.0 mmol, 382 mg | BrC1=CC(OC1(C)C)=O | C6H7BrO2
reactant | LiHMDS THF | 4.4 mmol, 1M, 4.4 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-2-oxoindoline-5-carboxylate | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC=C(C=C12)C(=O)OC)=O | C16H14BrNO4
